US06001855
20 mg of tetrabutylammonium bromide in 1 ml of water and then within 5 min. 20 g of 50% NaOH in water are added dropwise to a mixture of 2.05 g of (R)-1-[(R)-α-methylbenzyl]-3-pyrrolidinemethanol, 25 ml of toluene and 2.2 ml of tert.-butyl bromoacetate while stirring vigorously. After 6.5 hrs. the mixture is diluted with toluene, washed neutral with water, dried and evaporated in a vacuum. Chromatography on silica gel gives 2.1 g of tert.-butyl (R)-[1-(R)-[1-phenyl-ethyl]-pyrrolidin-3-ylmethoxy]-acetate, [α]D =+29.2°, (MeOH, c=1.0), MS: 319 (M)+.

reactant | NaOH | 20 g | [OH-].[Na+]
reactant | (R)-1-[(R)-α-methylbenzyl]-3-pyrrolidinemethanol | 2.05 g | C[C@H](C1=CC=CC=C1)N1C[C@@H](CC1)CO | C13H19NO
reactant | tert.-butyl bromoacetate | 2.2 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
catalyst | tetrabutylammonium bromide | 20 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | tert.-butyl (R)-[1-(R)-[1-phenyl-ethyl]-pyrrolidin-3-ylmethoxy]-acetate | 2.1 g | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](CC1)COCC(=O)OC(C)(C)C | C19H29NO3
